US05378720
To a solution of N,N,N',N'-tetramethylethylenediamide (25.5 g) in anhydrous ether (600 mL) was added s-butyllithium (1.3M, 170 mL) and the mixture was cooled to -70° C. under nitrogen. A solution of 2-isopropyl-N,N-diethylbenzamide (44 g) in anhydrous ether (300 mL) was added dropwise over 20 minutes. The temperature was maintained at or below -60° C. during the addition. After the addition the mixture was stirred at -70° C. for 30 minutes, allowed to warm to -50° C. during 30 minutes, held at -50° C. for 10 minutes, then cooled back to -70° C. By cannulation tube a solution of sulfur dioxide (50 g) in anhydrous ether (50 mL) precooled to -60° C. was added under positive nitrogen pressure over a 10-minute period. The temperature of the reaction mixture during the addition was maintained below -50° C. A white powdery precipitate of aryllithium sulphinate separated out almost immediately. The temperature was allowed to rise to room temperature during one hour. Sulfuryl chloride (54 g) was added dropwise with continued stirring during 15 minutes. After further stirring for 30 minutes at 0°-5° C. a white precipitate was filtered off and washed with anhydrous ether (2 L). Removal of the solvent under vacuum gave a faint yellow oil, which was dissolved in tetrahydrofuran (150 mL). The solution was cooled to 0° C. and concentrated aqueous ammonia (28%, 60 mL) was added in portions over 15 minutes. The temperature was kept at 10° C. or below throughout the addition. After stirring for 15 minutes at ambient temperature the tetrahydrofuran and excess ammonia were removed and the residue was acidified with hydrochloric acid (2N) to pH 1. The resulting white solid was collected, washed with water (200 mL) and hexane (200 mL) and dried affording 2-aminosulfonyl-6-isopropyl-N,N-diethylbenzamide (54 g, 90 % yield).

reactant | s-butyllithium | 1.3M, 170 mL | C(C)(CC)[Li]
reactant | 2-isopropyl-N,N-diethylbenzamide | 44 g | C(C)(C)C1=C(C(=O)N(CC)CC)C=CC=C1 | C14H21NO
reactant | sulfur dioxide | 50 g | S(=O)=O | O2S
reactant | ammonia | 60 mL | N | H3N
solvent | ether | 600 mL | CCOCC | C4H10O
solvent | ether | 300 mL | CCOCC | C4H10O
solvent | ether | 50 mL | CCOCC | C4H10O
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | 2-aminosulfonyl-6-isopropyl-N,N-diethylbenzamide | 54 g, 90 % yield | NS(=O)(=O)C1=C(C(=O)N(CC)CC)C(=CC=C1)C(C)C | C14H22N2O3S
